* C:\users\corwin\My Documents\ST\High-Voltage-Power-Supply\LTspice_Simulation\High_Voltage_Power_Supply_Simulation.asc
XU1 N001 N007 N009 N002 N006 N014 N015 N010 0 N013 0 N011 VCC VCC N008 0 MP_01 0 MP_02 N003 0 LT3751
V1 VCC 0 12 Rser=0
V2 vtrans 0 48 Rser=0
R1 vtrans N001 80.6k
L1 vtrans N004 1.125µH Rser=2.815m
L2 0 N005 112.5µH Rser=200m
C1 vout 0 2200pf
C2 vout 0 80µf
R2 vout N012 2Meg
R3 N012 N013 2Meg
R4 N013 0 4.87k
C3 N013 0 10nF
R6 N011 0 1m
R7 N004 N003 36.5k
R9 N014 VCC 100k
R10 N015 VCC 100k
R11 N009 vtrans 1.3Meg
R12 N007 vtrans 453k
R13 N006 VCC 453k
R14 N002 VCC 169k
V3 N010 0 PULSE(0 12 1m 100n 100n 100)
M1 NC_03 NC_04 NC_05 NC_06 IXFK180N25T
D1 N005 vout DNDSH25170A
M2 N004 N008 N011 N011 IPB200N25N3
.model D D
.lib C:\users\corwin\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\corwin\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 10ns 100m uic
.model IXFK180N25T NMOS(Vds=250 Ron=12.9m Qg=345n)
.model DNDSH25170A D (RS=0 BV=1700 IBV=50u )
.lib LT3751.sub
.backanno
.end
